US08497278B2
6-Methyl-3-(pyridin-3-yloxymethyl)-2-p-tolyl-imidazo[1,2-a]pyridine (175)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 1H-benzo[d][1,2,3]triazol-1-ol. and pyridin-3-ol. m/e+ 350 for C21H20N3O [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 8.38 (d, J=1.8 Hz, 1H), 8.27 (dd, J=1.8, 4.4 Hz, 1H), 8.21 (d, J=2.5 Hz, 1H), 8.02 (d, J=4.4 Hz, 1H), 7.91 (s, 1H), 7.59 (dd, J=1.4, 8.0 Hz, 2H), 7.23 (d, J=1.4, 8.0 Hz, 2H), 7.15 (m, 2H), 5.42 (s, 2H), 2.36 (s, 3H), 2.35 (s, 3H) ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 1H-benzo[d][1,2,3]triazol-1-ol | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | pyridin-3-ol | N1=CC(=CC=C1)O | C5H5NO
product | 6-Methyl-3-(pyridin-3-yloxymethyl)-2-p-tolyl-imidazo[1,2-a]pyridine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)COC=2C=NC=CC2 | C21H19N3O
